US05294734
4.3 g (9.9 mmol) of 7-acetoxy-4-diisopropylphosphonomethyl-2-formylamino-hept-3-enoic acid ethyl ester are dissolved in 25 ml of dichloromethane, and 5.1 ml (39.5 mmol) of trimethylbromosilane are added dropwise at room temperature. The mixture is left to stand at room temperature for 24 hours, 25 ml of ethanol are added dropwise, the mixture is left to stand for a further 24 hours and is concentrated by evaporation, the residue is dissolved in 25 ml of ethanol, and a mixture of 25 ml of propylene oxide and 25 ml of ethanol is added dropwise. A suspension forms, which is stirred for one hour at room temperature and for one hour in an ice bath and is then filtered with suction. Drying yields 2-amino-7-hydroxy-4-phosphonomethyl-hept-3-enoic acid ethyl ester having a melting point of 210° C. (decomp.).

reactant | 7-acetoxy-4-diisopropylphosphonomethyl-2-formylamino-hept-3-enoic acid ethyl ester | 9.9 mmol, 4.3 g | C(C)OC(C(C=C(CCCOC(C)=O)CP(=O)(OC(C)C)OC(C)C)NC=O)=O | C19H34NO8P
reactant | trimethylbromosilane | 39.5 mmol, 5.1 ml | C[Si](Br)(C)C | C3H9BrSi
reactant | ethanol | 25 ml | C(C)O | C2H6O
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 2-amino-7-hydroxy-4-phosphonomethyl-hept-3-enoic acid ethyl ester | C(C)OC(C(C=C(CCCO)CP(=O)(O)O)N)=O | C10H20NO6P
